US07091228B2
Methyl cis-2-(4-bromobenzoyl)cyclopropanecarboxylate (10.34 g, 36.52 mmol) was dissolved in MeOH (100 mL), and then 15 mL 50% aqueous NaOH solution was added. The reaction mixture was stirred at 40° C. for 3 days. Solvent was removed by rotary evaporation and the residue was dissolved in water. Concentrated HCl was added to adjust the acidity to pH 1. The precipitate that formed was collected by filtration and dried in a vacuum oven overnight to give trans-2-(4-bromobenzoyl)cyclopropanecarboxylic acid (9.43 g, 95%). LC-MS ret. time 2.51, m/z 270 (MH+); 1H NMR (400 MHz, CD2Cl2) δ 1.68 (m, 2H), 2.38 (m, 1H), 3.22 (m, 1H), 7.67 (m, 2H), 7.90 (m, 2H).

reactant | Methyl cis-2-(4-bromobenzoyl)cyclopropanecarboxylate | 36.52 mmol, 10.34 g | BrC1=CC=C(C(=O)[C@@H]2[C@@H](C2)C(=O)OC)C=C1 | C12H11BrO3
reactant | NaOH | 15 mL | [OH-].[Na+]
solvent | MeOH | 100 mL | CO | CH4O
product | trans-2-(4-bromobenzoyl)cyclopropanecarboxylic acid | 9.43 g, 95% | BrC1=CC=C(C(=O)[C@H]2[C@@H](C2)C(=O)O)C=C1 | C11H9BrO3
